US05061706
A solution of 2.0 g (5.9 mmol) N-ethoxalyl-2-nitro-3,4,5-trichloroaniline in 50 ml ethanol was hydrogenated at atm. pressure by using 70 mg Pt-C (5%) as a catalyst. The precipitate was filtered off and the filter cake was washed with 10 ml 1N aqueous potassium hydroxide. The filtrate was acidified with concentrated hydrochloric acid and the precipitate was filtered off, washed with water, ethanol and ether to give 0.18 g (11%) of 1-hydroxy-6,7,8-trichloroquinoxaline-2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d6): 7.4 (1H, s) MS m/z: 280 (M+, trace, 3Cl), 265 (35%), 237 (100%), 173 (55%).

reactant | N-ethoxalyl-2-nitro-3,4,5-trichloroaniline | 5.9 mmol, 2.0 g | C(=O)(C(=O)OCC)NC1=C(C(=C(C(=C1)Cl)Cl)Cl)[N+](=O)[O-] | C10H7Cl3N2O5
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pt-C | 70 mg | [Pt] | Pt
product | 1-hydroxy-6,7,8-trichloroquinoxaline-2,3(1H,4H)-dione | 0.18 g, 11% | ON1C(C(NC2=CC(=C(C(=C12)Cl)Cl)Cl)=O)=O | C8H3Cl3N2O3
